data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1CCCC1CC(=O)C(C)P(=O)(OCC)OCC.[OH2:10].CCO.C(CO)O.[Cl-]>>[H:20][OH2+:10].CCOP(=O)(C(C)C(=O)CC1CCCC1=[O:21])OCC.CCO.C(CO)O.[Cl-] 10=20;20,21=21
[H:20][C:21](Cl)(Cl)Cl.[OH-:10].CCO.C1=CC(=NC(=C1)N)N.[Na+]>>[H:20][OH:10].[C-:21](Cl)(Cl)Cl.CCO.C1=CC(=NC(=C1)N)N.[Na+] 10=20;20,21=21
C1C(=O)NC2=C(C=CC=C2)[C:20]([NH2+:21]1)(C3=NC=CC=C3)[OH:10].O.[Cl-]>>C1=CC(=C(C=C1)NC(=O)C[NH2:21])[C:20](=[OH+:10])C2=NC=CC=C2.O.[Cl-] 10=20;20,21=21
[H:20][OH:21].CCO[C:11](=[CH:10]C)[O-:12].CCC#N.C(=O)=O.[Na+]>>[H:20][CH:10](C)[C:11](=[O:12])OCC.[OH-:21].CCC#N.C(=O)=O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)S(C)(C)Cl.C[N:10](C)C>>[H:20][N+:10](C)(C)C.CC[O:21]S(C)(C)Cl 10=20;20,21=21
[H:20][OH:21].CC(C)C(C1=CC=CC=C1)[O-:10]>>[H:20][O:10]C(C1=CC=CC=C1)C(C)C.[OH-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CC(C2OC(=[O:10])C)CC(C)C)CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CC(C2O1)CC(C)C)CC(C)C 10=20;20,21=21
[H:10][C:11](C)(C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20]1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1.CC(C)O>>[H:10][C:20]1(CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11](C)C.CC(C)O 10,11=10,20;20,21=21;12=11
CC1CC=CC(=O)C1C(C2=CCCN3C2CCC3=O)O[I:10]4(C5=C(C=CC=C5)C(=O)O4)(OC(=O)C)[O:11]C(=O)C.CC(=O)O>>CC1CC=CC(=O)C1C(C2=CCCN3C2CCC3=O)O[I+:10]4(C5=C(C=CC=C5)C(=O)O4)OC(=O)C.CC(=O)[O-:11].CC(=O)O 10,11=11
[H:20][O+:21](CC)C(C)(O)OC(=O)CCC=O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(O)OC(=O)CCC=O 10=20;20,21=21
CCOC(=O)[CH-:10]S[C:20]1=[N+:21]2C(COC2(CCC1)C)C3=CC=CC=C3.CC[NH+](CC)CC.[Br-]>>CCOC(=O)[CH:10]1[C:20]2(S1)CCCC3([N:21]2C(CO3)C4=CC=CC=C4)C.CC[NH+](CC)CC.[Br-] 10=20;20,21=21
[H:20][O:21][C:22](=[O+:23][Si-](C)(C)(C)OC(=O)C)C.C[OH:10]>>CC(=O)O[Si-](C)(C)(C)[O:23][C:22](=[O:21])C.[H:20][OH+:10]C 10=20;22,23=23;20,21=21,22
[H:20][O+:21]([B-]1(OC(C(O1)(C)C)(C)C)OC(C2=CC=CC=C2)C(C)C=C)CCN(CCO)CCO.C(CO)[N:10](CCO)CCO>>[H:20][N+:10](CCO)(CCO)CCO.[B-]1(OC(C(O1)(C)C)(C)C)([O:21]CCN(CCO)CCO)OC(C2=CC=CC=C2)C(C)C=C 10=20;20,21=21
CCC(=O)O[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CCC(=O)O[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
CC[O:21][C:20](C)(C(=C)C)[O:10][Mg]Br>>CC[O-:21].CC(=C)[C:20](=[O+:10][Mg]Br)C 10=20;20,21=21
[B:20](C1CCCCC1)(C2CCCCC2)OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C.O[O-:10]>>[B-:20](C1CCCCC1)(C2CCCCC2)(OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C)[O:10]O 10=20,
[H:20][OH+:21][Na].CC(C)C1=CC(=O)C(C=C1)(C)[C-:10](Cl)Cl.[Cl-]>>[H:20][C:10](C1(C=CC(=CC1=O)C(C)C)C)(Cl)Cl.[OH:21][Na].[Cl-] 10=20;20,21=21
[H:20][Cl:21].C1=CC=[C:10](C(=C1)N)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1N.[Mg+:11]Br.[Cl-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)(C)C)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)C(C)(C)C 10=20;20,21=21,22;22,23=23,24
[H:20][O:21]C(CCCCC=C)(CC1C(C(=C(C1=O)OC(=O)C2=CC=CC=C2)CCC=C)C(C)C)C3=[N+](C(=C(S3)CCO)C)CC4=CC=CC=C4.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(CCCCC=C)(CC3C(C(=C(C3=O)OC(=O)C4=CC=CC=C4)CCC=C)C(C)C)[O-:21])CCO.[Cl-] 10=20;20,21=21
C[O-].CO[C:20](=[O:21])C1=CC=CC=C1.C1=CC=[C:10](C=C1)[Mg:11]Br.[Mg+]Br>>C[O-].CO[C:20](C1=CC=CC=C1)([C:10]2=CC=CC=C2)[O-:21].[Mg+:11]Br.[Mg+]Br 10,11=10,20;20,21=21
[H:20][O+:21](CCC)C(CC(C1=CC=CC=C1)[NH3+])(O)O.CCC[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]CCC.CCC[O:21]C(CC(C1=CC=CC=C1)[NH3+])(O)O.OS(=O)(=O)[O-] 10=20;20,21=21
C[C:11](=[CH2:10])[O-:12].CC(=O)[CH2:20][Br:21]>>CC(=O)[CH2:20][CH2:10][C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](CC)(CC)CC.COC1=C(C=CC(=C1)N2CC[C:11](=[CH:10]C2)[N:12]3CCCC(C3)O)[N+](=O)[O-].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na]>>[H:20][CH:10]1CN(CC[C:11]1=[N+:12]2CCCC(C2)O)C3=CC(=C(C=C3)[N+](=O)[O-])OC.CC[N:21](CC)CC.[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na] 10,11=10,20;20,21=21;12=11
C1C2C[C:11]([CH2:10]C1C=C2)([CH2:20][N+:21]#N)[O-:12]>>N#[N:21].[CH2:10]1[CH2:20][C:11](=[O:12])CC2CC1C=C2 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1[C:22](=[C:23]2C(=O)CC(C[C:24]2=[O+:25]1)(C)C)C(=O)OCC.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=O)[C:22]1=[CH:21][O:25][C:24]2=[C:23]1C(=O)CC(C2)(C)C.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]CC#N.[OH-:10]>>[H:20][OH:10].C(C#N)[O-:21] 10=20;20,21=21
C[CH:20]([NH2:10])[I:21]>>C[CH:20]=[NH2+:10].[I-:21] 10=20;20,21=21
CC[C:20]1(C2=C(CC[NH:10]1)C=CC=C2)[O:21]P(=O)(Cl)Cl.CC1=[NH+]CCC2=CC=CC=C12.[Cl-]>>CC[C:20]1=[NH+:10]CCC2=C1C=CC=C2.CC1=[NH+]CCC2=CC=CC=C12.[O-:21]P(=O)(Cl)Cl.[Cl-] 10=20;20,21=21
CCCCCCCC[OH:10].C1=C(C=C(C(=C1)O)O)[C:20](=[OH+:21])O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1>>CCCCCCCC[OH+:10][C:20](C1=CC=C(C(=C1)O)O)(O)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1 10=20;20,21=21
C[C:11]1=[CH:10]OC=C1.[N+:20](=O)=[O:21]>>C[C+:11]1C=CO[CH:10]1[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
